US08871753B2
Step D: N-(3-Aminobenzyl)-N′-(2,5-dichloropyrimidin-4-yl)benzene-1,3-diamine
A solution of N-(2,5-dichloropyrimidin-4-yl)-N′-(3-nitrobenzyl)benzene-1,3-diamine trifluoroacetate (67 mg, 0.13 mmol) in methanol (0.51 mL), acetic acid (0.20 mL), and water (0.10 mL) was treated with iron (30 mg, 0.53 mmol) and stirred at 25° C. for 1 h. The reaction mixture was treated with additional iron (25 mg, 0.45 mmol) and stirred at 25° C. for 16 h. The reaction mixture was diluted with methanol (2 mL) and celite was added. The resulting suspension was filtered through a pad of celite and rinsed with methanol. The filtrate was concentrated to give the desired product as a crude residue that was used without further purification.

reactant | N-(2,5-dichloropyrimidin-4-yl)-N′-(3-nitrobenzyl)benzene-1,3-diamine trifluoroacetate | 0.13 mmol, 67 mg | FC(C(=O)O)(F)F.ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)NCC1=CC(=CC=C1)[N+](=O)[O-])Cl
reactant | water | 0.10 mL | O | H2O
solvent | methanol | 0.51 mL | CO | CH4O
solvent | acetic acid | 0.20 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 2 mL | CO | CH4O
catalyst | iron | 0.53 mmol, 30 mg | [Fe] | Fe
catalyst | iron | 0.45 mmol, 25 mg | [Fe] | Fe
product | N-(3-Aminobenzyl)-N′-(2,5-dichloropyrimidin-4-yl)benzene-1,3-diamine | NC=1C=C(CNC2=CC(=CC=C2)NC2=NC(=NC=C2Cl)Cl)C=CC1 | C17H15Cl2N5
